US05691364
To methylene chloride (15 mL) was added 2,6-dichloropyridine-4-carbonyl chloride (1.0 g, 4.8 mmol) and 1-methylpiperazine (0.48 g, 4.8 mmol). After stirring for 1 day, the reaction was poured into ether. The resulting solid was filtered to give 1-[(2,6-dichloropyridin-4-yl)carbonyl]-4-methylpiperazine, hydrochloride.

reactant | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
reactant | 2,6-dichloropyridine-4-carbonyl chloride | 4.8 mmol, 1.0 g | ClC1=NC(=CC(=C1)C(=O)Cl)Cl | C6H2Cl3NO
reactant | 1-methylpiperazine | 4.8 mmol, 0.48 g | CN1CCNCC1 | C5H12N2
solvent | ether | CCOCC | C4H10O
product | 1-[(2,6-dichloropyridin-4-yl)carbonyl]-4-methylpiperazine, hydrochloride | Cl.ClC1=NC(=CC(=C1)C(=O)N1CCN(CC1)C)Cl | InChI=1S/C11H13Cl2N3O.ClH/c1-15-2-4-16(5-3-15)11(17)8-6-9(12)14-10(13)7-8;/h6-7H,2-5H2,1H3;1H
